US06703392B2
2-(1-Benzyl-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-N-(4-fluoro-benzyl)-acetamide:
prepared by reaction of 1-benzyl-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 4-fluorobenzylamine

reactant | 1-benzyl-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)C1NCCC2=CC(=C(C=C12)OC)OC | C18H21NO2
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 4-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
product | 2-(1-Benzyl-6,7-dimethoxy-3,4-dihydro-1H-isoquinolin-2-yl)-N-(4-fluoro-benzyl)-acetamide | C(C1=CC=CC=C1)C1N(CCC2=CC(=C(C=C12)OC)OC)CC(=O)NCC1=CC=C(C=C1)F | C27H29FN2O3
